US07550607B2
Preparation of Allyloxy-Acetic Acid Ethyl Ester
A round-bottom flask was charged with NaH (1.76 g, 44 mmol, 60% dispersion in mineral oil) and flushed with argon. Hexane (10 ml×2) was added and decanted. DMF (10 ml) was added into the flask and the resulting solution was cooled to 0° C. Ethyl glycolate (4.16 g, 40.0 mmol) was added over 10 min. The solution was allowed to gradually warm to 25° C. and was maintained at that temperature for 2H. The solution was cooled to 0° C. and allyl bromide (5.32 g, 44.0 mmol) was added over 10 min. The solution was allowed to gradually warm to 25° C. and stirred at that temperature for 2 h. Aqueous solution NH4Cl (10 ml) was added to the reaction and the mixture was diluted with EtOAc (60 ml). The organic layer was separated and washed with H2O (20 ml×2), dried over Na2SO4 and concentrated in vacuo. The crude product was purified by distillation under reduced pressure

reactant | NaH | 44 mmol, 1.76 g | [H-].[Na+]
reactant | Ethyl glycolate | 40.0 mmol, 4.16 g | C(CO)(=O)OCC | C4H8O3
reactant | allyl bromide | 44.0 mmol, 5.32 g | C(C=C)Br | C3H5Br
reactant | NH4Cl | 10 ml | [NH4+].[Cl-]
solvent | EtOAc | 60 ml | CCOC(=O)C | C4H8O2
product | Allyloxy-Acetic Acid Ethyl Ester | C(C)OC(COCC=C)=O | C7H12O3
